US06399797B1
3-Ethyl-3-trimethylsilyloxy-5-hexyne
To a solution of 3-ethyl-3-hydroxy-5-hexyne (12.6 g) (WO 93/19044), triethylamine (67 ml) and DMAP (0.47 g) in dichloromethane (150 ml) was added, with stirring at 0° C., trimethylchlorosilane (38 ml), during 10 min. Stirring was continued at 0° C. for 15 min. and at 25° C. for 45 min. The reaction mixture was worked up, and the crude product was purified by distillation in vacuo to give the title compound as an oil, b.p. 83-85° C./25 mm Hg.

reactant | 3-ethyl-3-hydroxy-5-hexyne | 12.6 g | C(C)C(CC)(CC#C)O | C8H14O
reactant | triethylamine | 67 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 38 ml | C[Si](Cl)(C)C | C3H9ClSi
catalyst | DMAP | 0.47 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-Ethyl-3-trimethylsilyloxy-5-hexyne | C(C)C(CC)(CC#C)O[Si](C)(C)C | C11H22OSi
